US08242260B2
A mixture of 3-bromo-5-chloro-2-fluorobenzoic acid (3.34 g, 13.2 mmol), DIEA (2.04 g, 15.8 mmol) and diphenyl phosphorazide (DPPA, 4.53 g, 16.5 mmol) in 1:1 dry t-butanol and toluene (35 mL) was heated to and maintained at reflux for 23 hours. The reaction was allowed to cool to room temperature and was then partitioned between CHCl3 (75 mL) and water (75 mL). The organic layer was separated, washed with brine, dried (Na2SO4), and then concentrated under reduced pressure to yield an oily residue. Purification by flash chromatography (SiO2, 0-5% EtOAc in heptane) to yield tert-butyl 3-bromo-5-chloro-2-fluorophenylcarbamate (2.45 g, 7.5 mmol, 57%): LCMS(m/z) not ionized (MH+), tR=1.20 minutes; 1H NMR (400 MHz, CDCl3) δ 8.17 (d, J=5.1 Hz, 1H), 7.16 (m, 1H), 6.72 (br s, 1H), 1.53 (s, 9H).

reactant | 3-bromo-5-chloro-2-fluorobenzoic acid | 13.2 mmol, 3.34 g | BrC=1C(=C(C(=O)O)C=C(C1)Cl)F | C7H3BrClFO2
reactant | DIEA | 15.8 mmol, 2.04 g | CCN(C(C)C)C(C)C | C8H19N
reactant | diphenyl phosphorazide | 16.5 mmol, 4.53 g | C1=CC=C(C=C1)OP(=O)(N=[N+]=[N-])OC2=CC=CC=C2 | C12H10N3O3P
reactant | t-butanol | C(C)(C)(C)O | C4H10O
solvent | toluene | 35 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 3-bromo-5-chloro-2-fluorophenylcarbamate | 7.5 mmol, 2.45 g, 57% | BrC=1C(=C(C=C(C1)Cl)NC(OC(C)(C)C)=O)F | C11H12BrClFNO2
